US05298516
N-(2-Nitrooxyethyl)-2-oxo-5-phenylthiazolidine-4-carboxamide (Compound No. 1-7)
0.07 ml of triethylamine and 90 mg of 1-(N,N-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were added, whilst ice-cooling and stirring, to a solution of 105 mg of 2-oxo-5-phenylthiazolidine-4-carboxylic acid and 79.5 mg of N-(2-nitrooxyethyl)amine nitrate in 10 ml of dry N,N-dimethylformamide, and the resulting mixture was stirred at room temperature overnight. At the end of this time, the solvent was removed by distillation under reduced pressure, and the residue was mixed with ethyl acetate. The resulting mixture was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was distilled off and the residual yellow oil was triturated with diethyl ether. The crystals which precipitated were collected by filtration and purified by column chromatography through silica gel, using a 40:1 by volume mixture of methylene chloride and methanol as the eluent, to give 34 mg of the title compound as pale yellow crystals, melting at 139°-140° C.

reactant | triethylamine | 0.07 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(N,N-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 90 mg | Cl.CN(C)CCCN=C=NCC
reactant | 2-oxo-5-phenylthiazolidine-4-carboxylic acid | 105 mg | O=C1SC(C(N1)C(=O)O)C1=CC=CC=C1 | C10H9NO3S
reactant | N-(2-nitrooxyethyl)amine nitrate | 79.5 mg | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(2-Nitrooxyethyl)-2-oxo-5-phenylthiazolidine-4-carboxamide | 34 mg | [N+](=O)([O-])OCCNC(=O)C1NC(SC1C1=CC=CC=C1)=O | C12H13N3O5S
